US07589232B2
Step b) Formation of 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(isoxazol-5-ylcarbonyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)isoxazole-5-carboxamide and NaOH as a yellow solid (55%). M− (ESI): 470.7; M+ (ESI): 472.6. HPLC, Rt: 4.56 min (Purity: 71.3%).

reactant | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)isoxazole-5-carboxamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC=NO2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C29H21ClN2O5
reactant | NaOH | [OH-].[Na+]
product | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(isoxazol-5-ylcarbonyl)amino]-2-hydroxybenzoic acid | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(=O)C2=CC=NO2)C=C1 | C26H17ClN2O5
